US07335799B2
6.1 2,2,12,12-Tetramethyltridecane-1,7,13-triol
Under nitrogen atmosphere, to a suspension of lithium borohydride (2.65 g, 122 mmol) in dichloromethane (60 mL) was added methanol (4.0 g, 125 mmol) dropwise at room temperature over 30 min. The reaction mixture was heated at reflux and 2,2,12,12-tetramethyl-7-oxo-tridecanedioic acid diethyl ester (10.0 g, 27 mmol) was introduced. Heating at reflux temperature was continued overnight. The reaction mixture was cooled to room temperature and hydrolyzed with saturated ammonium chloride solution (100 mL). The layers were separated and the aqueous layer was extracted with dichloromethane (3×50 mL). The combined organic layers were washed with 2 N hydrochloric acid (100 mL) and saturated sodium chloride solution (100 mL), dried over anhydrous sodium sulfate and concentrated in vacuo to afford the crude product. The crude compound was purified by chromatography on silica (hexanes:ethyl acetate=40:60) to yield the pure product (5.8 g, 74%) as a white solid. M.p.: 72-74° C. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 3.58 (br. m, 1H), 3.30 (s, 4H), 1.80-1.64 (m, 3H), 1.56-1.15 (m, 16H), 0.86 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 71.87, 71.72, 38.71, 37.46, 35.11, 26.66, 24.18, 24.05, 23.97. HRMS (LSIMS, gly): Calcd. for C17H37O3 (MH+): 289.2743, found: 289.2756. HPLC: 90.6% purity.

reactant | lithium borohydride | 122 mmol, 2.65 g | [BH4-].[Li+]
reactant | methanol | 125 mmol, 4.0 g | CO | CH4O
reactant | 2,2,12,12-tetramethyl-7-oxo-tridecanedioic acid diethyl ester | 27 mmol, 10.0 g | C(C)OC(C(CCCCC(CCCCC(C(=O)OCC)(C)C)=O)(C)C)=O | C21H38O5
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 2,2,12,12-Tetramethyltridecane-1,7,13-triol | 5.8 g, 74% | CC(CO)(CCCCC(CCCCC(CO)(C)C)O)C | C17H36O3
